US06790860B2
LAH reduction: To a slurry of lithium aluminium hydride (0.72 g) in Et2O (120 ml) was added a solution of (2S,4R)-4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid benzyl ester (9.0 g) in Et2O (80 ml) dropwise at −15° C. within 0.5 h. The suspension was stirred for 2 h at the same temperature, then a saturated solution of potassium-sodium tartrate (10 ml) was added dropwise. The slurry was filtered through a pad of filter aid and was washed with Et2O. The combined filtrates were washed with brine, dried over magnesium sulphate and concentrated. The residue was crystallized from acetone/Et2O/hexane to obtain (2S,4R)-[4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-methanol (6.1 g) as a colorless solid, mp 124-125° C.; MS 363 (M).

reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | lithium aluminium hydride | 0.72 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S,4R)-4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidine-2-carboxylic acid benzyl ester | 9.0 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N(C[C@@H](C1)OC(C)(C)C)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C26H29NO5S
reactant | potassium-sodium tartrate | 10 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | Et2O | 120 ml | CCOCC | C4H10O
solvent | Et2O | 80 ml | CCOCC | C4H10O
product | (2S,4R)-[4-tert-butoxy-1-(naphthalene-2-sulfonyl)-pyrrolidin-2-yl]-methanol | 6.1 g | C(C)(C)(C)O[C@@H]1C[C@H](N(C1)S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CO | C19H25NO4S
